US09233974B2
(S)-ethyl 2-(tert-butoxycarbonylamino)-5-oxohexanoate in a 1 L flask was treated with a trifluoro acetic acid/dichloromethane solution (1:1 mixture, 100 mL). Effervescence was observed and the mixture was allowed to stir for 4 hours at room temperature. After which time the volatiles were removed in vacuo to yield (S)-ethyl 5-methyl-3,4-dihydro-2H-pyrrole-2-carboxylate as an oil, and used directly in the following step.

reactant | (S)-ethyl 2-(tert-butoxycarbonylamino)-5-oxohexanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)CCC(C)=O | C13H23NO5
solvent | trifluoro acetic acid dichloromethane | 100 mL | FC(C(=O)O)(F)F.ClCCl
product | (S)-ethyl 5-methyl-3,4-dihydro-2H-pyrrole-2-carboxylate | CC=1CC[C@H](N1)C(=O)OCC | C8H13NO2
